US04447435
Ethyl iodide (2.93 g.) was added to a stirred mixture of 4-hydroxy-3-methylsulphonylmethylquinoline (1.93 g.), anhydrous potassium carbonate (2.3 g.) and 2-butanone (80 ml.) The mixture was boiled under reflux for 24 hours and the solvent was evaporated. The mixture was diluted with water (200 ml.) and left overnight. The mixture was filtered and the filtrate evaporated to dryness to give a white solid. This was purified by high pressure liquid chromatography over silica gel using ethyl acetate:isopropanol 9:1 as the eluant at a flow rate of 200 ml. per minute. There was obtained the novel compound 1-ethyl-3-methylsulphonylmethyl-4-quinolone, m.p. 162°-164°.

reactant | Ethyl iodide | 2.93 g | C(C)I | C2H5I
reactant | 4-hydroxy-3-methylsulphonylmethylquinoline | 1.93 g | OC1=C(C=NC2=CC=CC=C12)CS(=O)(=O)C | C11H11NO3S
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 80 ml | CC(CC)=O | C4H8O
product | 1-ethyl-3-methylsulphonylmethyl-4-quinolone | C(C)N1C=C(C(C2=CC=CC=C12)=O)CS(=O)(=O)C | C13H15NO3S
